US06229011B1
N-(2-Chloro-6-methylbenzoyl)-4-[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine 2-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]ethyl ester was prepared in 78% yield from N-(2-chloro-6-methylbenzoyl)4-[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine and 2-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]ethanol using the procedure described in example 129. HR MS: Obs. mass, 717.1995. Calcd. mass, 717.2013 (M+).

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 2-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]ethanol | CC(C)(OC(=O)N1CCN(CC1)CCO)C | C11H22N2O3
product | L-phenylalanine 2-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]ethyl ester | 78% yield | CC(C)(OC(=O)N1CCN(CC1)CCOC([C@@H](N)CC1=CC=CC=C1)=O)C | C20H31N3O4
